* C:\Users\elias\OneDrive\Escritorio\ELIAS\8vo_semestre\Lab_Electronica\Exp2\fig10.asc
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
R9 N001 N004 1k
R10 N002 N001 1k
C4 N002 N001 22.736n
V1 N004 0 AC 1
R11 N006 N005 500
R12 N007 N006 1k
C5 N006 N003 40n
XU2 N003 N007 N003 opamp Aol=100K GBW=10Meg
C6 N007 0 40n
V2 N005 0 AC 1
.ac dec 1k 1m 100k
.lib opamp.sub
.backanno
.end
