* C:\Users\elias\OneDrive\Escritorio\ELIAS\8vo_semestre\Lab_Electronica\Exp2\fig10.asc
XU1 N001 0 V opamp Aol=100K GBW=10Meg
R9 N001 N005 1k
R10 V N001 1k
C4 V N001 22.736n
V1 N005 0 AC 1
R11 N003 V 16k
R12 N004 N003 16k
C5 N003 N002 1n
XU2 N002 N004 N002 opamp Aol=100K GBW=10Meg
C6 N004 0 1n
V2 N006 0 AC 1
.ac dec 1k 1m 100k
.lib opamp.sub
.backanno
.end
