* C:\Users\elias\OneDrive\Escritorio\ELIAS\8vo_semestre\Lab_Electronica\Exp2\fig10.asc
XU1 N001 0 Vx opamp Aol=100K GBW=10Meg
R9 N001 NC_01 1k
R10 Vx N001 1k
C4 Vx N001 22.736n
V1 Vx 0 SINE(0 1 5k) AC 1
R11 N003 Vx 300k
R12 N004 N003 8.2k
C5 N003 N002 1n
XU2 N002 N004 N002 opamp Aol=100K GBW=10Meg
C6 N004 0 100p
V2 N005 0 AC 1
.ac dec 1k 1m 10meg
.lib opamp.sub
;tran 500m
.backanno
.end
